US06099592
A suspension of 8.6 g (0.05 mol) of 1,3-dimethyl-5-hydrazino-4-nitropyrazole and 1.5 g of 5% by weight palladium-on-charcoal containing 50% water in 200 cm3 of ethanol was placed in a hydrogenator. After stirring under a hydrogen pressure of 10 bar, at a temperature of 75° C. for 3 hours, the reaction medium was poured into a solution of 60 cm3 of ethanol and 20 cm3 of 12N hydrochloric acid cooled to 0° C. The solution was clarified by filtration on a sinter funnel and then evaporated to dryness under reduced pressure. The brown solid obtained was taken up, at reflux, in 50 cm3 of 5N hydrochloric ethanol and 14 cm3 of water and was then cooled to room temperature. The white precipitate obtained was filtered off on a sinter funnel and then dried under vacuum at room temperature. 9.5 g of 4-amino-1,3-dimethyl-5-hydrazinopyrazole dihydrochloride were obtained in the form of white crystals, the melting point of which was from 202 to 204° C. The elemental analysis calculated for C5H11N5.2HCl was:

reactant | 1,3-dimethyl-5-hydrazino-4-nitropyrazole | 0.05 mol, 8.6 g | CN1N=C(C(=C1NN)[N+](=O)[O-])C | C5H9N5O2
reactant | hydrochloric acid | 12N, 20 cm3 | Cl | ClH
reactant | water | 14 cm3 | O | H2O
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
solvent | ethanol | 5N, 50 cm3 | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | 60 cm3 | C(C)O | C2H6O
product | 4-amino-1,3-dimethyl-5-hydrazinopyrazole dihydrochloride | 9.5 g | Cl.Cl.NC=1C(=NN(C1NN)C)C | InChI=1S/C5H11N5.2ClH/c1-3-4(6)5(8-7)10(2)9-3;;/h8H,6-7H2,1-2H3;2*1H
